US06737417B2
6-Methoxy-2-naphthol (22.1 g, 127.0 mmol) was dissolved in acetone (200 ml). Potassium carbonate (70.2 g, 508.0 mmol) and allyl bromide (16.5 ml, 191.0 mmol) were added to the resulting solution followed by stirring for 2 days at room temperature. After the reaction mixture was filtered, the organic solvent was distilled off under reduced pressure. Water was added to the residue, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The organic solvent was distilled off again to give 6-methoxy-2-(2-propenyloxy)naphthalene (24.9 g, Yield 91%) as a crude product.

reactant | 6-Methoxy-2-naphthol | 127.0 mmol, 22.1 g | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | Potassium carbonate | 508.0 mmol, 70.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 191.0 mmol, 16.5 ml | C(C=C)Br | C3H5Br
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 6-methoxy-2-(2-propenyloxy)naphthalene | 24.9 g, Yield 91% | COC=1C=C2C=CC(=CC2=CC1)OCC=C | C14H14O2
